US03960960
16.7 g. of N-(3,3-diphenyl-3-methoxypropyl)-trifluoroacetamide, prepared according to Example 4, and 24.2 g. of allyl bromide in 150 ml. of anhydrous acetone are heated to 50°C. and 11.2 g. of powdered potassium hydroxide are added. The mixture is then boiled for 5 minutes and the solvent is distilled off in vacuo. The residue is boiled for one hour with 100 ml. of water and 100 ml. of methanol and is worked up as in Example 4. 13.1 g. of 1,1-diphenyl-1-methoxy-3-allylaminopropane of melting point 45° to 50°C. are obtained, corresponding to a yield of 93% of theory.

reactant | N-(3,3-diphenyl-3-methoxypropyl)-trifluoroacetamide | C1(=CC=CC=C1)C(CCNC(C(F)(F)F)=O)(OC)C1=CC=CC=C1 | C18H18F3NO2
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium hydroxide | [OH-].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 1,1-diphenyl-1-methoxy-3-allylaminopropane | yield of 93% | C1(=CC=CC=C1)C(CCNCC=C)(OC)C1=CC=CC=C1 | C19H23NO
